US09334366B2
20 g (106.5 mmol) of 2,4-dinitrotoluene is solubilized in 280 ml of NMP. To the brown solution is added 7.6 g (255.6 mmol) of paraformaldehyde. To the suspension is added 597 mg (5.32 mmol) of potassium tetrabutoxyde. The resulting solution is stirred overnight at RT. The mixture was poured onto 200 ml ice, and neutralized with 2 mL of HCl 25%. The reaction mixture is then partitioned between ethyl acetate and water; the organic phase is washed repeatedly with water, dried over sodium sulfate, filtered and concentrated by rotary evaporation. The solution is precipitate at RT by adding 150 ml of heptane. The product is filtrated and dried under vacuum at RT to give 16.1 g of 2-(2,4-dinitrophenyl)propane-1,3-diol as a slightly yellow product.

reactant | 2,4-dinitrotoluene | 106.5 mmol, 20 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])C | C7H6N2O4
reactant | paraformaldehyde | 255.6 mmol, 7.6 g | C=O | CH2O
reactant | potassium | 5.32 mmol, 597 mg | [K] | K
reactant | HCl | 2 mL | Cl | ClH
reactant | NMP | 280 ml | CN1CCCC1=O | C5H9NO
product | 2-(2,4-dinitrophenyl)propane-1,3-diol | 16.1 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])C(CO)CO | C9H10N2O6
